US04658039
Allyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate (acemetacin allyl ester)
25 g of indometacin, 10 g of potassium carbonate and 1.0 g of benzyltriethylammonium chloride in 140 ml of acetone are stirred for 30 minutes at 50° to 60° C. 10.1 g of allyl chloroacetate are then added dropwise over 5 minutes. The mixture is stirred at 40° C. until the reaction has ended (as checked by thin layer chromatography; about 3 hours). The mixture is filtered while warm, the filtrate is evaporated in vacuo and the residue is taken up in ether (about 90 ml) and mixed with petroleum ether (40 to 60) (about 30 ml). This mixture is left to stand over night at -10° C. and the product is then filtered off and dried in vacuo.

reactant | indometacin | 25 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl chloroacetate | 10.1 g | ClCC(=O)OCC=C | C5H7ClO2
catalyst | benzyltriethylammonium chloride | 1.0 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetone | 140 ml | CC(=O)C | C3H6O
product | Allyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)OCC=C)C)C=C1 | C24H22ClNO6
